### PR TITLE
[Merged by Bors] - feat(Algebra/QuadraticAlgebra): custom structure for quadratic algebras

### PR DESCRIPTION
**Pull request by Nebula691**
Discussed in [#Is there code for X? > Z&#91;(1+sqrt(1+4k))/2&#93; @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Z.5B.281.2Bsqrt.281.2B4k.29.29.2F2.5D/near/520523635)

Co-authored-by: Edison Xie <yx3021@ic.ac.uk>
Co-authored-by: Kenny Lau <kc_kennylau@yahoo.com.hk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 1]
```diff
@@ -0,0 +1,445 @@
...
+Quadratic algebra, quadratic extension
+
+-/
+
+universe u
+
+/-- Quadratic algebra over a type with fixed coefficient where $i^2 = a + bi$, implemented as
+a structure with two fields, `re` and `im`. -/
+@[ext]
+structure QuadraticAlgebra (R : Type u) (a b : R) : Type u where
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean:34]: `R` can be implicit?

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 2]
```diff
@@ -0,0 +1,445 @@
...
+  /-- Real part of an element in quadratic algebra -/
+  re : R
+  /-- Imaginaty part of an element in quadratic algerba -/
+  im : R
+
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean:40]:
```suggestion
deriving DecidableEq

```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 3]
```diff
@@ -0,0 +1,445 @@
...
+## Tags
+
+Quadratic algebra, quadratic extension
+
+-/
+
+universe u
+
+/-- Quadratic algebra over a type with fixed coefficient where $i^2 = a + bi$, implemented as
+a structure with two fields, `re` and `im`. -/
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
/-- Quadratic algebra over a type with fixed coefficient where $i^2 = a + bi$, implemented as
a structure with two fields, `re` and `im`. When `R` is a commutative ring, this is isomorphic to
`R[X]/(X^2-b*X-a)`. -/
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 4]
```diff
@@ -0,0 +1,445 @@
...
+def equivProd {R : Type*} (a b : R) : QuadraticAlgebra R a b ≃ R × R where
+  toFun z := (z.re, z.im)
+  invFun p := ⟨p.1, p.2⟩
+
+/-- The equivalence between quadratic algebra over `R` and `Fin 2 → R`. -/
+@[simps symm_apply]
+def equivTuple {R : Type*} (a b : R) : QuadraticAlgebra R a b ≃ (Fin 2 → R) where
+  toFun a := ![a.1, a.2]
+  invFun f := ⟨f 0, f 1⟩
+  right_inv _ := funext fun i ↦ by fin_cases i <;> simp
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: Use [finTwoArrowEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Fin/Basic.html#finTwoArrowEquiv)?

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 5]
```diff
@@ -0,0 +1,445 @@
...
+
+@[simp]
+theorem equivTuple_apply {R : Type*} (a b : R) (z : QuadraticAlgebra R a b) :
+    equivTuple a b z = ![z.re, z.im] := rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: Does the simpNF linter not complain? Also, `a` and `b` can be implicit.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 6]
```diff
@@ -0,0 +1,445 @@
...
+instance [Subsingleton R] : Subsingleton (QuadraticAlgebra R a b) := (equivTuple a b).subsingleton
+
+instance [Nontrivial R] : Nontrivial (QuadraticAlgebra R a b) := (equivTuple a b).nontrivial
+
+section Zero
+
+variable [Zero R]
+
+/-- Coercion `R → ℍ[R,c₁,c₂,c₃]`. -/
+@[coe] def coe (x : R) : QuadraticAlgebra R a b := ⟨x, 0⟩
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: What are c1 c2 c3?

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 7]
```diff
@@ -0,0 +1,445 @@
...
+
+instance : CoeTC R (QuadraticAlgebra R a b) := ⟨coe⟩
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: [CoeTC](https://leanprover-community.github.io/mathlib4_docs/Init/Coe.html#CoeTC):
> Auxiliary class implementing Coe*. Users should generally not implement this directly.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 8]
```diff
@@ -0,0 +1,445 @@
...
+
+@[simp]
+theorem coe_inj {x y : R} : (x : QuadraticAlgebra R a b) = y ↔ x = y :=
+  coe_injective.eq_iff
+
+instance : Zero (QuadraticAlgebra R a b) := ⟨⟨0, 0⟩⟩
+
+@[scoped simp] theorem zero_re : (0 : QuadraticAlgebra R a b).re = 0 := rfl
+
+@[scoped simp] theorem zero_im : (0 : QuadraticAlgebra R a b).im = 0 := rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: Why scoped?

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 9]
```diff
@@ -0,0 +1,445 @@
...
+end MulAction
+
+@[simp, norm_cast]
+theorem coe_smul [Zero R] [SMulZeroClass S R] (s : S) (r : R) :
+    (↑(s • r) : QuadraticAlgebra R a b) = s • (r : QuadraticAlgebra R a b) :=
+  QuadraticAlgebra.ext rfl (smul_zero _).symm
+
+instance [AddMonoid R] : AddMonoid (QuadraticAlgebra R a b) := by
+  refine (equivProd a b).injective.addMonoid _ rfl ?_ ?_
+  all_goals intros; rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
  refine (equivProd a b).injective.addMonoid _ rfl ?_ ?_ <;> intros <;> rfl
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 10]
```diff
@@ -0,0 +1,445 @@
...
+  __ := inferInstanceAs (AddMonoid (QuadraticAlgebra R a b))
+  add_comm _ _ := by ext <;> simp [add_comm]
+
+instance [Semiring S] [AddCommMonoid R] [Module S R] : Module S (QuadraticAlgebra R a b) where
+  add_smul r s x := by ext <;> simp[add_smul]
+  zero_smul x := by ext <;> simp
+
+instance [AddGroup R] : AddGroup (QuadraticAlgebra R a b) := by
+  refine (equivProd a b).injective.addGroup _ rfl ?_ ?_ ?_ ?_ ?_
+  all_goals intros; rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
  refine (equivProd a b).injective.addGroup _ rfl ?_ ?_ ?_ ?_ ?_ <;> intros <;> rfl
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 11]
```diff
@@ -0,0 +1,445 @@
...
+instance [AddCommGroup R] : AddCommGroup (QuadraticAlgebra R a b) where
+  __ := inferInstanceAs (AddGroup (QuadraticAlgebra R a b))
+  __ := inferInstanceAs (AddCommMonoid (QuadraticAlgebra R a b))
+
+section AddCommGroupWithOne
+
+instance [AddCommMonoidWithOne R] : AddCommMonoidWithOne (QuadraticAlgebra R a b) where
+  natCast n := ((n : R) : QuadraticAlgebra R a b)
+  natCast_zero := by ext <;> simp
+  natCast_succ n:= by ext <;> simp
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
  natCast_succ n := by ext <;> simp
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 12]
```diff
@@ -0,0 +1,445 @@
...
+
+variable [AddCommGroupWithOne R]
+
+instance : AddCommGroupWithOne (QuadraticAlgebra R a b) where
+  intCast n := ((n : R) : QuadraticAlgebra R a b)
+  intCast_ofNat n:= by ext <;> simp <;> rfl
+  intCast_negSucc n := by ext <;> simp <;> rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
  intCast_ofNat n := by norm_cast
  intCast_negSucc n := by rw [Int.negSucc_eq, Int.cast_neg, coe_neg]; norm_cast
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 13]
```diff
@@ -0,0 +1,445 @@
...
+
+instance instSemiring [CommSemiring R] : Semiring (QuadraticAlgebra R a b) where
+  __ := inferInstanceAs (AddCommMonoidWithOne (QuadraticAlgebra R a b))
+  left_distrib _ _ _ := by ext <;> simp <;> ring
+  right_distrib _ _ _ := by ext <;> simp <;> ring
+  zero_mul _ := by ext <;> simp
+  mul_zero _ := by ext <;> simp
+  mul_assoc _ _ _ := by ext <;> simp <;> ring
+  one_mul _ := by ext <;> simp
+  mul_one _ := by ext <;> simp
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
  left_distrib _ _ _ := by ext <;> simpa using by ring
  right_distrib _ _ _ := by ext <;> simpa using by ring
  zero_mul _ := by ext <;> simp
  mul_zero _ := by ext <;> simp
  mul_assoc _ _ _ := by ext <;> simpa using by ring
  one_mul _ := by ext <;> simp
  mul_one _ := by ext <;> simp
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 14]
```diff
@@ -0,0 +1,445 @@
...
+
+instance instCommSemiring [CommSemiring R] : CommSemiring (QuadraticAlgebra R a b) where
+  __ := inferInstanceAs (Semiring (QuadraticAlgebra R a b))
+  mul_comm z w := by ext <;> simp <;> ring
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
  mul_comm z w := by ext <;> simpa using by ring
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 15]
```diff
@@ -0,0 +1,445 @@
...
+
+instance instRing [CommRing R] : Ring (QuadraticAlgebra R a b) where
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: ?

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 16]
```diff
@@ -0,0 +1,445 @@
...
+  toFun := im
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
+
+/-- `QuadraticAlgebra.equivTuple` as a `LinearEquiv` -/
+def linearEquivTuple : QuadraticAlgebra R a b ≃ₗ[R] (Fin 2 → R) :=
+  LinearEquiv.symm {
+  (equivTuple a b).symm with
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl }
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
def linearEquivTuple : QuadraticAlgebra R a b ≃ₗ[R] (Fin 2 → R) where
  __ := equivTuple a b
  map_add' _ _ := funext <| Fin.forall_fin_two.2 ⟨rfl, rfl⟩
  map_smul' _ _ := funext <| Fin.forall_fin_two.2 ⟨rfl, rfl⟩
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 17]
```diff
@@ -0,0 +1,445 @@
...
+lemma coe_linearEquivTuple :
+    ⇑(linearEquivTuple a b) = equivTuple a b := rfl
+
+@[simp]
+lemma coe_linearEquivTuple_symm :
+    ⇑(linearEquivTuple a b).symm = (equivTuple a b).symm := rfl
+
+/-- `QuadraticAlgebra R a b` has a basis over `R` given by `1` and `i` -/
+noncomputable def basisOneI : Module.Basis (Fin 2) R (QuadraticAlgebra R a b) :=
+  .ofEquivFun <| linearEquivTuple a b
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
/-- `QuadraticAlgebra R a b` has a basis over `R` given by `1` and `i` -/
noncomputable def basis : Module.Basis (Fin 2) R (QuadraticAlgebra R a b) :=
  .ofEquivFun <| linearEquivTuple a b
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 18]
```diff
@@ -0,0 +1,445 @@
...
+variable [CommRing R]
+
+@[norm_cast, simp]
+theorem coe_sub (r1 r2 : R) : ((r1 - r2 : R) : QuadraticAlgebra R a b) = r1 - r2 :=
+  (algebraMap R (QuadraticAlgebra R a b)).map_sub r1 r2
+
+@[norm_cast, simp]
+theorem coe_pow (n : ℕ) (r : R) : ((r ^ n : R) : QuadraticAlgebra R a b) =
+    (r : QuadraticAlgebra R a b) ^ n :=
+  (algebraMap R (QuadraticAlgebra R a b)).map_pow r n
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean:409]: CommSemiring

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 19]
```diff
@@ -0,0 +1,445 @@
...
+
+theorem coe_commutes (r : R) (x : QuadraticAlgebra R a b) :
+    (r : QuadraticAlgebra R a b) * x = x * (r : QuadraticAlgebra R a b) :=
+  Algebra.commutes r x
+
+theorem coe_commute (r : R) (x : QuadraticAlgebra R a b) :
+    Commute (r : QuadraticAlgebra R a b) x :=
+  coe_commutes r x
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: ????

**Review by kckennylau — CHANGES_REQUESTED** [review]
Thanks!

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 19 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: this is a copy from `Quaternion` :D

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: it didn't, and making `a` and `b` implicit will break the theorems after it then it would ask me to specify which `a` and `b` am I using

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 6 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: sorry this is a copy from `Quaternion` file some of the docstring needs changing

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: so should replace it with `coe`?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 13 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: Nice trick! I didn't know you could do that

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: I'd argue for just dropping this, I think we only need the prod version

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 20]
```diff
@@ -0,0 +1,444 @@
...
+theorem intCast_re (n : ℤ) : (n : QuadraticAlgebra R a b).re = n := rfl
+
+@[scoped simp]
+theorem ofNat_re (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : QuadraticAlgebra R a b).re = ofNat(n) := rfl
+
+@[scoped simp]
+theorem ofNat_im (n : ℕ) [n.AtLeastTwo] : (ofNat(n) : QuadraticAlgebra R a b).im = 0 := rfl
+
+@[simp, norm_cast]
+theorem intCast_im (n : ℤ) : (n : QuadraticAlgebra R a b).im = 0 := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: This name is arguably backwards

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 19 above)
Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: I don't think quaternion is the best api example right now...

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 20 above)
Comment (kckennylau) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: [Zsqrtd.intCast_im](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/Zsqrtd/Basic.html#Zsqrtd.intCast_im)
I thought real projections go at the back

Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: so should we change `QuaternionAlgebra.ofNat_im` as well?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 19 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: so should we just delete this?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 18 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean:409]: ah okay

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 15 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: why the question mark?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: why do we only need the prod version could you please elaborate more?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 1 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean:34]: I think explicit is better since sometimes you wanna say `QuadraticAlgebra A -1 0` not `QuadraticAlgebra (-1 : A) 0` when `A` is a `CommRing`

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 15 above)
Comment (kckennylau) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: Why is the conclusion not CommRing?

Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: ah yes I see your point, done :)

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 8 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: deleted

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: replaced

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 6 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: changed

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 18 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean:409]: done

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: ok deleted this and added two simp lemma for the LinearEquiv

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 19 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: deleted

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 21]
```diff
@@ -0,0 +1,420 @@
...
+
+Quadratic algebra, quadratic extension
+
+-/
+
+universe u
+
+/-- Quadratic algebra over a type with fixed coefficient where $i^2 = a + bi$, implemented as
+a structure with two fields, `re` and `im`. When `R` is a commutative ring, this is isomorphic to
+`R[X]/(X^2-b*X-a)`. -/
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean:32]: i^2 = b + ai in your definition below.
can you choose one and include the "correctness" as an example? (use `mk 0 1` if you don't want to define `i`)

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 22]
```diff
@@ -0,0 +1,420 @@
...
+  __ := inferInstanceAs (CommSemiring (QuadraticAlgebra R a b))
+
+@[simp, norm_cast]
+theorem coe_mul (x y : R) [Semiring R] :
+    ((x * y : R) : QuadraticAlgebra R a b) = x * y := by ext <;> simp
+
+@[simp, norm_cast]
+theorem coe_ofNat (n : ℕ) [n.AtLeastTwo] [AddCommMonoidWithOne R] :
+    ((ofNat(n) : R) : QuadraticAlgebra R a b) = (ofNat(n) : QuadraticAlgebra R a b) := by
+  ext <;> rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: why at least two?

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 23]
```diff
@@ -0,0 +1,420 @@
...
+variable [CommSemiring R]
+
+theorem algebraMap_eq (r : R) : algebraMap R (QuadraticAlgebra R a b) r = ⟨r, 0⟩ := rfl
+
+theorem algebraMap_injective : (algebraMap R (QuadraticAlgebra R a b) : _ → _).Injective :=
+  fun _ _ ↦ by simp [algebraMap_eq]
+
+instance [NoZeroDivisors R] : NoZeroSMulDivisors R (QuadraticAlgebra R a b) := ⟨by
+  rintro t ⟨x, y⟩ h
+  exact or_iff_not_imp_left.2 <| fun ht ↦ by simpa [QuadraticAlgebra.ext_iff, ht] using h⟩
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
instance [NoZeroDivisors R] : NoZeroSMulDivisors R (QuadraticAlgebra R a b) :=
  ⟨by simp [QuadraticAlgebra.ext_iff, or_and_left]⟩
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 24]
```diff
@@ -0,0 +1,420 @@
...
+lemma linearEquivTuple_apply (z : QuadraticAlgebra R a b) :
+    (linearEquivTuple a b) z = ![z.re, z.im] := rfl
+
+@[simp]
+lemma linearEquivTuple_symm_apply (x : Fin 2 → R) :
+    (linearEquivTuple a b).symm x = ⟨x 0, x 1⟩ := rfl
+
+/-- `QuadraticAlgebra R a b` has a basis over `R` given by `1` and `i` -/
+noncomputable def basis : Module.Basis (Fin 2) R (QuadraticAlgebra R a b) :=
+  .ofEquivFun <| linearEquivTuple a b
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean:361]: @eric-wieser will probably disagree with me, but it would make me happy to see a `computable` version `basis'` with the assumption of `DecidableEq R`

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 25]
```diff
@@ -0,0 +1,420 @@
...
+
+@[simp]
+theorem coe_basisOneI_repr (x : QuadraticAlgebra R a b) :
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
theorem coe_basis_repr (x : QuadraticAlgebra R a b) :
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 26]
```diff
@@ -0,0 +1,420 @@
...
+
+instance [NoZeroDivisors R] : NoZeroSMulDivisors R (QuadraticAlgebra R a b) := ⟨by
+  rintro t ⟨x, y⟩ h
+  exact or_iff_not_imp_left.2 <| fun ht ↦ by simpa [QuadraticAlgebra.ext_iff, ht] using h⟩
+
+end CommRing
+
+section
+
+variable (a b) [CommRing R]
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
variable (a b) [Semiring R]
```
bruh moment when I opened your code and just replaced CommRing with Semiring and everything just worked

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 27]
```diff
@@ -0,0 +1,420 @@
...
+theorem finrank_eq_two [StrongRankCondition R] : Module.finrank R (QuadraticAlgebra R a b) = 2 := by
+  simp [Module.finrank, rank_eq_two]
+
+end
+
+section
+
+@[norm_cast, simp]
+theorem coe_sub (r1 r2 : R) [CommRing R] : ((r1 - r2 : R) : QuadraticAlgebra R a b) = r1 - r2 :=
+  (algebraMap R (QuadraticAlgebra R a b)).map_sub r1 r2
```
Comment (kckennylau) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
@[norm_cast, simp]
theorem coe_sub (r1 r2 : R) [SubNegZeroMonoid R] : ((r1 - r2 : R) : QuadraticAlgebra R a b) = r1 - r2 :=
  QuadraticAlgebra.ext rfl zero_sub_zero.symm
```

**Review by kckennylau — CHANGES_REQUESTED** [review]
Could you please group the lemmas according to the assumption R being Semiring, CommSemiring, or CommRing

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 24 above)
Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean:361]: If you want that, you shoudl change `.ofEquivFun`.

Note that until the new compiler landed, `Basis.ofRepr` was noncomputable so it was impossible to make even a trivial basis computable.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 20 above)
Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: Possibly. I think it's worth a zulip thread about naming here.

**Comment by eric-wieser** [comment]
> I don't think quaternion is the best api example right now...

To be clear, this comment was "I'm not sure copying what quaternion does is a sensible strategy in general".

If we want to do that, i think it would make sense to first try and clean up the quaternion module, and _then_ copy it.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 27 above)
Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: Can this be applied to `Quaternion` too?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 20 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: But presumably that's the job for a different PR?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 21 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: what do I need to do here? I'm a little bit confused

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 22 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: because zero and one are handled differently in OfNat.ofNat?

**Comment by Whysoserioushah** [comment]
sorry the definition of `Mul` is wrong I'll fix it

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 21 above)
Comment (kckennylau) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: You should prove that `mk 0 1 * mk 0 1 = mk a b` to verify the docstring.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 28]
```diff
@@ -0,0 +1,417 @@
...
+namespace QuadraticAlgebra
+
+/-- The equivalence between quadratic algebra over `R` and `R × R`. -/
+@[simps symm_apply]
+def equivProd {R : Type*} (a b : R) : QuadraticAlgebra R a b ≃ R × R where
+  toFun z := (z.re, z.im)
+  invFun p := ⟨p.1, p.2⟩
+
+@[simp]
+theorem mk_eta {R : Type*} {a b} (z : QuadraticAlgebra R a b) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: Let's move `R : Type` to the top of the file.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 29]
```diff
@@ -0,0 +1,417 @@
...
+/-- Coercion `R → QuadraticAlgebra R a b`. -/
+@[coe] def coe (x : R) : QuadraticAlgebra R a b := ⟨x, 0⟩
+
+instance : Coe R (QuadraticAlgebra R a b) := ⟨coe⟩
+
+@[simp, norm_cast]
+theorem coe_re : (r : QuadraticAlgebra R a b).re = r := rfl
+
+@[simp, norm_cast]
+theorem coe_im : (r : QuadraticAlgebra R a b).im = 0 := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: I've DM'd Yael about this, but I think we should match docs#Prod.fst_zero here and throughout. Let's wait for them to confirm before changing anything,

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 28 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: moved

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 29 above)
Comment (YaelDillies) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: I agree

**Review by kckennylau — APPROVED** [review]
I don't think we should be slowed down by naming inconsistencies. It's clear that the naming scheme is inconsistent in current mathlib and if we change it we'll need a big change anyway.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 30]
```diff
@@ -0,0 +1,418 @@
...
+
+Quadratic algebra, quadratic extension
+
+-/
+
+universe u
+
+/-- Quadratic algebra over a type with fixed coefficient where $i^2 = a + bi$, implemented as
+a structure with two fields, `re` and `im`. When `R` is a commutative ring, this is isomorphic to
+`R[X]/(X^2-b*X-a)`. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/QuadraticAlgebra.lean:32]: Can it not be obtained as a quotient in general? Also, where is that `lift` operation that you get from identifying `QuadraticAlgebra` to the quotient?

Comment (kckennylau) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: The reason this is not quotient is the same reason why Zsqrtd and C are not quotients -- i.e. for better (decidable) equality

Comment (kckennylau) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: Ah, I misunderstood, you meant this mathematically -- in which case, yes but you will need a relation in general, specifically the relation generated by X^2 ~ a+bX

Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: Is the ask for `Complex.lift` but for `QuadraticAlgebra`?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 29 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: so `re_coe` and `im_coe`?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 30 above)
Comment (YaelDillies) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: Then can you define it as a quotient? We've got plenty of API for quotients, and it seems a shame to not use it. Here is an example where @Kiolt, @erdOne and I worked out the ring corresponding to SO(2): https://github.com/YaelDillies/Toric/blob/master/Toric/Examples/SO2.lean#L37

Comment (YaelDillies) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: > The reason this is not quotient is the same reason why Zsqrtd and C are not quotients -- i.e. for better (decidable) equality

Also I don't think anyone is using `Zsqrtd` and `ℂ` for good decidable equality. In fact, I don't think anyone is using `Zsqrtd` full stop!

Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: > Then can you define it as a quotient? We've got plenty of API for quotients, and it seems a shame to not use it. Here is an example where @Kiolt, @erdOne and I worked out the ring corresponding to SO(2): https://github.com/YaelDillies/Toric/blob/master/Toric/Examples/SO2.lean#L37

what's the benefit over the way I'm doing it now? Can we write `norm_num` tactic for quotient? (Cuz that's where this quadratic algebra is going, we're gonna replace `Complex` and create a `norm_num_quat` tactic)

Comment (YaelDillies) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: The benefit is that you plug into the usual quotient machinery. In general, the "mathematically quotients" which are "Lean quotients" are of two kinds:
1. the fundamental ones, like `Int`, `Rat`, that are used as internals to tactics
2. the historically early ones, like `ZMod` and `Zsqrtd`, which are either a bit weird to use on the edges, or not used at all anymore

I am afraid you are on your way to creating a new instance of the second kind, which would be sad!

I see no issue with creating a `norm_num` tactic for quotients. After all, your `norm_num_quat` isn't going to act on elements of the quadratic algebra, but on *expressions* thereof, and you can normalise your expressions at each step, the same way as you're currently doing here.

Comment (b-mehta) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: I don't think this is fair: ZMod is used quite a lot, and Zsqrtd is not used because it's mathematically wrong! The argument "it seems a shame to not use it" doesn't seem like a particularly compelling argument. I'm curious what number theorists think about this: @riccardobrasca, perhaps?

Comment (YaelDillies) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: Have you read the Toric file? There I use crucial properties of `AdjoinRoot`, like the fact that it's preserved under base change.

Comment (kckennylau) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: Another argument: the two field structure does not require Semiring

Comment (YaelDillies) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: That seems dubious: What does that gain you?

Comment (b-mehta) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: > Have you read the Toric file? There I use crucial properties of `AdjoinRoot`, like the fact that it's preserved under base change.

I have, and note that the very reason we have `IsAdjoinRoot` is because it's not necessarily good design to use definitional properties of this kind of structure as has been told many times with the R[1/X][1/Y] story.

Comment (YaelDillies) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: cf that recent thread expounding why `IsAdjoinRoot` is in fact not such a great idea: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60IsAdjoinRoot.60

Comment (b-mehta) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: Can you point to any part of that thread which talks about a definition shouldn't use IsAdjoinRoot? All I'm seeing there is a single comment about how certain definitions which work on elements might want to avoid it, together with discussion (which matches the mathlib docstrings) on why it is useful: [#mathlib4 > &#96;IsAdjoinRoot&#96; @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60IsAdjoinRoot.60/near/529970812). 

Can you also outline your arguments for why this PR _should_ use quotients? So far, I'm only seeing that you want quotients to be used, but not any actual reasons why. Plugging into the usual machinery is, looking at past examples such as localisation, something which we should do with IsAdjoinRoot, rather than amending the definition.

**Comment by artie2000** [comment]
I'm a bit concerned that we're duplicating a bunch of boilerplate. I understand the idea is to unify C and Zsqrtd under this approach? If so, why can we not rewrite C and Zsqrtd to use `AdjoinRoot`?
I'm interested in this because I am currently writing some more API for `AdjoinRoot` in the case of a quadratic extension, along the lines of the `KummerExtension` file.

**Comment by b-mehta** [comment]
> I'm a bit concerned that we're duplicating a bunch of boilerplate. I understand the idea is to unify C and Zsqrtd under this approach? If so, why can we not rewrite C and Zsqrtd to use `AdjoinRoot`? I'm interested in this because I am currently writing some more API for `AdjoinRoot` in the case of a quadratic extension, along the lines of the `KummerExtension` file.

There's a few things here:
- The main idea is that Zsqrtd is mathematically incorrect, and this PR is meant to fix that (unifying C and Zsqrtd is a side benefit!)
- Using `AdjoinRoot` means we lose useful defeqs, eg for `re` and `im`.
- Using `AdjoinRoot` means we lose computability of simple operations (which is relevant for things like GaussianInt and DualNumber).
- The current version works in greater generality, (which is useful for eg N[i]).
- Having an explicit, concrete model avoiding quotients makes practical usage simpler, see for instance `Rat`, or `Int`, both of which could have been defined as a quotient.
- Throughout the history of mathlib, we've learnt that using universal properties is almost always better than choosing the definition to satisfy it definitionally, most famously with the example of localisations (which is arguably the prototypical example of how `AdjoinRoot` became problematic). And similarly here, the more sensible approach is to use `IsAdjoinRoot`.

And conversely, we don't really gain any concrete benefits from using `AdjoinRoot` (or at least, none have been presented so far!) So the decision here seems pretty clear to me.

**Comment by artie2000** [comment]
@b-mehta thanks for the detailed explanation. I agree with developing theory in `IsAdjoinRoot` by default and in fact am planning to make a PR expanding its usage in Mathlib and reducing the amount of duplicated material between `AdjoinRoot` and `IsAdjoinRoot` by utilising `AdjoinRoot.IsAdjoinRoot`.

However, I don't understand why `AdjoinRoot` cannot be the canonical model in this case. Should we also create a special product type for the coordinate ring of a projective elliptic curve? Why should we set up this projection boilerplate over and over when we can just prove things about `IsAdjoinRoot.coord`?

**Comment by b-mehta** [comment]
> However, I don't understand why AdjoinRoot cannot be the canonical model in this case.

Points 2-5 in my earlier message explain why this should not happen! We lose defeqs, computability, generality and convenience. And all this for no gain!

> Why should we set up this projection boilerplate over and over

Can you point me to a location where the projection boilerplate is being setup repeatedly?

> when we can just prove things about IsAdjoinRoot.coord?

This doesn't seem to exist in mathlib.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 31]
```diff
@@ -0,0 +1,418 @@
...
+@[ext]
+structure QuadraticAlgebra (R : Type u) (a b : R) : Type u where
+  /-- Real part of an element in quadratic algebra -/
+  re : R
+  /-- Imaginaty part of an element in quadratic algerba -/
```
Comment (b-mehta) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
  /-- Imaginary part of an element in quadratic algebra -/
```

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 31 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: thanks!

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 30 above)
Comment (alreadydone) [reply Mathlib/Algebra/QuadraticAlgebra.lean:32]: I recently used Zsqrtd in [this PR](https://github.com/leanprover-community/mathlib4/pull/28787/files#diff-28e92735f040065df8555b2dd8ecdd0feb47ec6758d72e878edbe7283420b0fcR17) and found it super convenient to use (defeq/computability certainly helped), and I'm in favor of the current state of this PR defining QuadraticAlgebra as a generalization of Zsqrtd. You might try to rewrite the example with `AdjoinRoot (X^2-1 : Z[X])` and see for yourself how much longer it becomes.

**Comment by artie2000** [comment]
I meant `IsAdjoinRootMonic.coord`.

Anyway after further discussion I understand that the idea is that theory *will* still be proved using `IsAdjoinRoot`, and the purpose of this type is to have eg good defeqs for `re` and `im` rather than to host the algebraic theory of quadratic extensions. If that's the case then I see no problem with it.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 29 above)
Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: #29190 and #29191 move some other code in this direction

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 32]
```diff
@@ -0,0 +1,418 @@
...
+a structure with two fields, `re` and `im`. When `R` is a commutative ring, this is isomorphic to
+`R[X]/(X^2-b*X-a)`. -/
+@[ext]
+structure QuadraticAlgebra (R : Type u) (a b : R) : Type u where
+  /-- Real part of an element in quadratic algebra -/
+  re : R
+  /-- Imaginary part of an element in quadratic algebra -/
+  im : R
+deriving DecidableEq
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean:40]:
```suggestion
initialize_simps_projections QuadraticAlgebra (as_prefix re, as_prefix im)
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 33]
```diff
@@ -0,0 +1,418 @@
...
+@[simp, norm_cast]
+theorem coe_one : ((1 : R) : QuadraticAlgebra R a b) = 1 := rfl
+
+end One
+
+end Zero
+
+section Add
+
+variable [Add R]
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: style nit (throughout):
```suggestion
section Add
variable [Add R]
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 34]
```diff
@@ -0,0 +1,418 @@
...
+
+end MulAction
+
+@[simp, norm_cast]
+theorem coe_smul [Zero R] [SMulZeroClass S R] (s : S) (r : R) :
+    (↑(s • r) : QuadraticAlgebra R a b) = s • (r : QuadraticAlgebra R a b) :=
+  QuadraticAlgebra.ext rfl (smul_zero _).symm
+
+instance [AddMonoid R] : AddMonoid (QuadraticAlgebra R a b) := by
+  refine (equivProd a b).injective.addMonoid _ rfl ?_ ?_ <;> intros <;> rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean:234]: This should use `fast_instance%`

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 35]
```diff
@@ -0,0 +1,418 @@
...
+
+instance [Monoid S] [AddMonoid R] [DistribMulAction S R] :
+    DistribMulAction S (QuadraticAlgebra R a b) where
+  smul_zero _ := by ext <;> simp
+  smul_add _ _ _ := by ext <;> simp
+
+instance [AddCommMonoid R] : AddCommMonoid (QuadraticAlgebra R a b) where
+  __ := inferInstanceAs (AddMonoid (QuadraticAlgebra R a b))
+  add_comm _ _ := by ext <;> simp [add_comm]
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: You should pull these back with `(equivProd a b).injective.addCommMonoid` etc, also with `fast_instance%`.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 36]
```diff
@@ -0,0 +1,418 @@
...
+instance instCommSemiring : CommSemiring (QuadraticAlgebra R a b) where
+  __ := inferInstanceAs (AddCommMonoidWithOne (QuadraticAlgebra R a b))
+  left_distrib _ _ _ := by ext <;> simpa using by ring
+  right_distrib _ _ _ := by ext <;> simpa using by ring
+  zero_mul _ := by ext <;> simp
+  mul_zero _ := by ext <;> simp
+  mul_assoc _ _ _ := by ext <;> simpa using by ring
+  one_mul _ := by ext <;> simp
+  mul_one _ := by ext <;> simp
+  mul_comm _ _ := by ext <;> simpa using by ring
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: This generalizes to at least
```lean-4
instance instNonAssocSemiring : NonAssocSemiring (QuadraticAlgebra R a b) where
  __ := inferInstanceAs (AddCommMonoidWithOne (QuadraticAlgebra R a b))
  left_distrib _ _ _ := by ext <;> simpa using by simp [mul_add]; abel
  right_distrib _ _ _ := by ext <;> simpa using by simp [mul_add, add_mul]; abel
  zero_mul _ := by ext <;> simp
  mul_zero _ := by ext <;> simp
  one_mul _ := by ext <;> simp
  mul_one _ := by ext <;> simp
```
associativity doesn't hold without `a` and `b` being central, which I think is out of scope here.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 37]
```diff
@@ -0,0 +1,418 @@
...
+  algebraMap.map_add' x y:= by ext <;> simp
+  commutes' s z := by ext <;> simp [Algebra.commutes]
+  smul_def' s x := by ext <;> simp [Algebra.smul_def]
+
+theorem algebraMap_eq (r : R) : algebraMap R (QuadraticAlgebra R a b) r = ⟨r, 0⟩ := rfl
+
+theorem algebraMap_injective : (algebraMap R (QuadraticAlgebra R a b) : _ → _).Injective :=
+  fun _ _ ↦ by simp [algebraMap_eq]
+
+instance [NoZeroDivisors R] : NoZeroSMulDivisors R (QuadraticAlgebra R a b) :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: This generalizes as
```suggestion
instance [Zero S] [SMulWithZero S R] [NoZeroSMulDivisors S R] : NoZeroSMulDivisors S (QuadraticAlgebra R a b) :=
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 38]
```diff
@@ -0,0 +1,418 @@
...
+  ⟨by simp [QuadraticAlgebra.ext_iff, or_and_left]⟩
+
+@[norm_cast, simp]
+theorem coe_pow (n : ℕ) (r : R) : ((r ^ n : R) : QuadraticAlgebra R a b) =
+    (r : QuadraticAlgebra R a b) ^ n :=
+  (algebraMap R (QuadraticAlgebra R a b)).map_pow r n
+
+theorem coe_mul_eq_smul (r : R) (x : QuadraticAlgebra R a b) :
+    (r * x : QuadraticAlgebra R a b) = r • x := Algebra.smul_def r x |>.symm
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: This one doesn't need commutativity

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 39]
```diff
@@ -0,0 +1,417 @@
...
+  QuadraticAlgebra.ext rfl zero_sub_zero.symm
+
+end AddGroup
+
+section Mul
+
+variable [Mul R] [Add R]
+
+instance : Mul (QuadraticAlgebra R a b) :=
+  ⟨fun z w => ⟨z.1 * w.1 + a * z.2 * w.2, z.1 * w.2 + z.2 * w.1 + b * z.2 * w.2⟩⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: nit:
```suggestion
instance : Mul (QuadraticAlgebra R a b) where
  mul z w := ⟨z.1 * w.1 + a * z.2 * w.2, z.1 * w.2 + z.2 * w.1 + b * z.2 * w.2⟩
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 40]
```diff
@@ -0,0 +1,417 @@
...
+instance : Module.Free R (QuadraticAlgebra R a b) := .of_basis (basis a b)
+
+theorem rank_eq_two [StrongRankCondition R] : Module.rank R (QuadraticAlgebra R a b) = 2 := by
+  simp [rank_eq_card_basis (basis a b)]
+
+theorem finrank_eq_two [StrongRankCondition R] : Module.finrank R (QuadraticAlgebra R a b) = 2 := by
+  simp [Module.finrank, rank_eq_two]
+
+@[simp, norm_cast]
+theorem coe_mul (x y : R) : ((x * y : R) : QuadraticAlgebra R a b) = x * y := by ext <;> simp
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: nit: perhaps clearer as
```suggestion
@[simp, norm_cast]
theorem coe_mul (x y : R) : ↑(x * y) = (↑x * ↑y : QuadraticAlgebra R a b) := by ext <;> simp
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 41]
```diff
@@ -0,0 +1,417 @@
...
+a structure with two fields, `re` and `im`. When `R` is a commutative ring, this is isomorphic to
+`R[X]/(X^2-b*X-a)`. -/
+@[ext]
+structure QuadraticAlgebra (R : Type u) (a b : R) : Type u where
+  /-- Real part of an element in quadratic algebra -/
+  re : R
+  /-- Imaginary part of an element in quadratic algebra -/
+  im : R
+deriving DecidableEq
+initialize_simps_projections QuadraticAlgebra (as_prefix re, as_prefix im)
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean:41]: probably my fault:
```suggestion

initialize_simps_projections QuadraticAlgebra (as_prefix re, as_prefix im)

```

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 35 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: changed!

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 34 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean:234]: changed

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 41 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean:41]: and I see you've fixed that! thanks!

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 36 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: done, thanks!

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 42]
```diff
@@ -0,0 +1,422 @@
...
+instance : AddCommGroupWithOne (QuadraticAlgebra R a b) where
+  intCast n := ((n : R) : QuadraticAlgebra R a b)
+  intCast_ofNat n := by norm_cast
+  intCast_negSucc n := by rw [Int.negSucc_eq, Int.cast_neg, coe_neg]; norm_cast
+
+@[simp, norm_cast]
+theorem re_natCast (n : ℕ) : (n : QuadraticAlgebra R a b).re = n := rfl
+
+@[simp, norm_cast]
+theorem im_natCast (n : ℕ) : (n : QuadraticAlgebra R a b).im = 0 := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean:270]: These only need `AddCommMonoidWithOne`; I recommend splitting this and `AddCommGroupWithOne` into separate sections to avoid the `variable` mishap here.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 38 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: generalised!

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 42 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean:270]: splitted, thanks!

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 43]
```diff
@@ -0,0 +1,430 @@
...
+  natCast n := ((n : R) : QuadraticAlgebra R a b)
+  natCast_zero := by ext <;> simp
+  natCast_succ n := by ext <;> simp
+
+@[simp, norm_cast]
+theorem coe_ofNat (n : ℕ) [n.AtLeastTwo] [AddCommMonoidWithOne R] :
+    ((ofNat(n) : R) : QuadraticAlgebra R a b) = (ofNat(n) : QuadraticAlgebra R a b) := by
+  ext <;> rfl
+
+variable [AddCommMonoidWithOne R]
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]: This may as well move up to line 253

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 44]
```diff
@@ -0,0 +1,430 @@
...
+@[simp]
+lemma linearEquivTuple_symm_apply (x : Fin 2 → R) :
+    (linearEquivTuple a b).symm x = ⟨x 0, x 1⟩ := rfl
+
+/-- `QuadraticAlgebra R a b` has a basis over `R` given by `1` and `i` -/
+noncomputable def basis : Module.Basis (Fin 2) R (QuadraticAlgebra R a b) :=
+  .ofEquivFun <| linearEquivTuple a b
+
+@[simp]
+theorem coe_basis_repr (x : QuadraticAlgebra R a b) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
theorem basis_repr_apply (x : QuadraticAlgebra R a b) :
```
perhaps

**Review by eric-wieser — APPROVED** [review]
This looks great to me now, thanks!

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 43 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: moved!

Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: I meant to right below the `section AddCommMonoidWithOne`

**Comment by YaelDillies** [comment]
There is now plenty of evidence that my original kneejerk reaction was misguided and that we should indeed have this two-fields structure in mathlib.

My reasoning is that this is the minimal first step to unifying `Complex` and `GaussianInt`, and that further steps (such as using `AdjoinRoot` instead of an ad hoc structure) can be taken later (eg once `Polynomial` has been made computable).

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 45]
```diff
@@ -0,0 +1,428 @@
...
+theorem re_intCast (n : ℤ) : (n : QuadraticAlgebra R a b).re = n := rfl
+
+@[simp, norm_cast]
+theorem im_intCast (n : ℤ) : (n : QuadraticAlgebra R a b).im = 0 := rfl
+
+@[norm_cast]
+theorem coe_intCast (n : ℤ) : ↑(n : R) = (n : QuadraticAlgebra R a b) := rfl
+
+end AddCommGroupWithOne
+section NonUnitalNonAssocSemiring
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
end AddCommGroupWithOne

section NonUnitalNonAssocSemiring
```

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 46]
```diff
@@ -0,0 +1,429 @@
...
+
+@[simp] theorem im_neg (z : QuadraticAlgebra R a b) : (-z).im = -z.im := rfl
+
+@[simp]
+theorem neg_mk (x y : R) :
+    - (mk x y : QuadraticAlgebra R a b) = ⟨-x, -y⟩ := rfl
+
+end Neg
+
+section AddGroup
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra.lean:151]: Not super important, but in the section `AddGroup` there is no mention of any `AddGroup`.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 47]
```diff
@@ -0,0 +1,429 @@
...
+  ext <;> rfl
+
+@[simp, norm_cast]
+theorem re_natCast (n : ℕ) : (n : QuadraticAlgebra R a b).re = n := rfl
+
+@[simp, norm_cast]
+theorem im_natCast (n : ℕ) : (n : QuadraticAlgebra R a b).im = 0 := rfl
+
+@[norm_cast]
+theorem coe_natCast (n : ℕ) : ↑(n : R) = (n : QuadraticAlgebra R a b) := rfl
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
theorem coe_natCast (n : ℕ) : (n : R) = (n : QuadraticAlgebra R a b) := rfl
```
I *think* this is exactly the same. If we want more readability I suggest to write `((n : R) : ...)`.

**Review by riccardobrasca — APPROVED** [review]
LGTM, thanks!

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 47 above)
Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: Or
```suggestion
theorem coe_natCast (n : ℕ) : ↑(↑n : R) = (↑n : QuadraticAlgebra R a b) := rfl
```
which makes it clear there are two coercions on the left and one on the right.

Comment (kckennylau) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: I hate uparrows, so I would prefer seeing `((n : R) : QuadraticAlgebra R a b) = n`.

Comment (eric-wieser) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: But in general, up arrows show you where the coercion actually is, `()` s do not.

Comment (Whysoserioushah) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: changed, thanks!

**Comment by riccardobrasca** [comment]
bors merge
